US05958914
To a solution of diphenylmethyl 7β-amino-3-[(1H-1,2,3-triazol-4-yl)thiomethylthio]-3-cephem-4-carboxylate (9.9 g) in formic acid (39.6 ml) was added conc. hydrochloric acid (8.54 ml) at room temperature, and the mixture was stirred at the same temperature for 2.5 hours. The mixture was poured into a mixture of acetone (297 ml) and ethyl acetate (594 ml) under ice-cooling, and the resulting precipitate was collected by filtration. The precipitate was resolved in water, and adjusted to pH 4 with 28% ammonium hydroxide under ice-cooling. The precipitate was collected by filtration to give 7β-amino-3-[(1H-1,2,3-triazol-4-yl) thiomethylthio]-3-cephem-4-carboxylic acid (5.42 g).

reactant | diphenylmethyl 7β-amino-3-[(1H-1,2,3-triazol-4-yl)thiomethylthio]-3-cephem-4-carboxylate | 9.9 g | N[C@H]1[C@@H]2N(C(=C(CS2)SCSC=2N=NNC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H21N5O3S3
reactant | hydrochloric acid | 8.54 ml | Cl | ClH
reactant | acetone | 297 ml | CC(=O)C | C3H6O
reactant | ethyl acetate | 594 ml | C(C)(=O)OCC | C4H8O2
solvent | formic acid | 39.6 ml | C(=O)O | CH2O2
product | 7β-amino-3-[(1H-1,2,3-triazol-4-yl) thiomethylthio]-3-cephem-4-carboxylic acid | 5.42 g | N[C@H]1[C@@H]2N(C(=C(CS2)SCSC=2N=NNC2)C(=O)O)C1=O | C10H11N5O3S3
